US07253165B2
Synthesis of 6-fluoro-3-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-benzo[d]isoxazole (Scheme III, Compound 1b)
Combine 3-[4-(2-bromo-ethoxy)-phenyl]-6-fluoro-benzo[d]isoxazole (550 mg, 1.63 mmol), potassium carbonate (500 mg, 3.62 mmol), piperidine- d11 (630 mg, 6.55 mmol) and 5% aqueous acetonitrile. Under a nitrogen atmosphere, heat to reflux overnight. Cool to room temperature and pour the reaction mixture into water resulting in white solid precipitation. Collect the solid and dry in vacuo. Dissolve the solid in ethyl acetate and filter to remove the insoluble materials and concentrate in vacuo. Take the solid up in diethyl ether, filter and precipitate the hydrochloride salt out of solution by addition of hydrogen chloride in diethyl ether. Collect the desired salt and dry in vacuo to give the title compound as a solid (410 mg, 67% Yield).

reactant | 3-[4-(2-bromo-ethoxy)-phenyl]-6-fluoro-benzo[d]isoxazole | 1.63 mmol, 550 mg | BrCCOC1=CC=C(C=C1)C1=NOC2=C1C=CC(=C2)F | C15H11BrFNO2
reactant | potassium carbonate | 3.62 mmol, 500 mg | C([O-])([O-])=O.[K+].[K+]
reactant | piperidine- d11 | 6.55 mmol, 630 mg | [2H]C1(C(C(N(C(C1([2H])[2H])([2H])[2H])[2H])([2H])[2H])([2H])[2H])[2H] | C5H11N
reactant | acetonitrile | C(C)#N | C2H3N
solvent | water | O | H2O
product | 6-fluoro-3-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-benzo[d]isoxazole | 410 mg, 67% Yield | FC1=CC2=C(C(=NO2)C2=CC=C(C=C2)OCCN2CCCCC2)C=C1 | C20H21FN2O2
